US08735598B2
Diethyl 1H-imidazole-4,5-dicarboxylate
To a solution of L-tartaric acid diethyl ester (2.0 g) in ethyl acetate (34.2 ml), 1,3-dibromo-5,5-dimethylhydantoin (3.3 g) was added, and the reaction solution was stirred at room temperature for 3 hours. To the reaction solution, acetic acid (17 ml) was added, and subsequently 36% aqueous formaldehyde solution (3.45 ml) was added under ice cooling at the internal temperature of 10° C. or below, followed by addition of ammonium acetate (17.2 g) at an internal temperature of 10° C. or below. The reaction solution was stirred at room temperature for 30 minutes, followed by stirring at 50° C. for 3 hours. To the reaction solution, 5N sodium hydroxide was added, and the aqueous layer was extracted with ethyl acetate. The organic layers were combined, and dried over magnesium sulfate. Quantitative analysis of the resulting ethyl acetate solution by HPLC showed that the title compound was not produced. The condition for HPLC analysis was identical with that for Example 5.

reactant | L-tartaric acid diethyl ester | 2.0 g | C(C)OC([C@H](O)[C@@H](O)C(=O)OCC)=O | C8H14O6
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 3.3 g | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | formaldehyde | 3.45 ml | C=O | CH2O
reactant | ammonium acetate | 17.2 g | C(C)(=O)[O-].[NH4+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | ethyl acetate | 34.2 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
product | Diethyl 1H-imidazole-4,5-dicarboxylate | N1C=NC(=C1C(=O)OCC)C(=O)OCC | C9H12N2O4
